US04477671
6-(1-Hydroxy-2-tert-butylaminoethyl)-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine N-oxide (IV, R1 and R2 are taken together)
To 15.0 g. (0.055 mole) of 6-(1,2-epoxyethyl)-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine N-oxide in 200 ml. of methanol was added 30 ml. tert-butylamine and the resulting reaction mixture was heated to the reflux temperature for 3 hours. Solvent and excess tert-butylamine were removed in vacuo to give 13.4 g. (73.6%) of 6-(1-hydroxy-2-tert-butylaminoethyl)-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine N-oxide after recrystallization from ethyl acetate: m.p. 165°-168° C.

reactant | 6-(1,2-epoxyethyl)-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine N-oxide | 0.055 mole | O1C(C1)C1=CC=C2C(=[N+]1[O-])COC(O2)C2=CC=CC=C2 | C15H13NO4
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
solvent | methanol | CO | CH4O
product | 6-(1-Hydroxy-2-tert-butylaminoethyl)-2-phenyl-4H-1,3-dioxino[5,4-b]pyridine N-oxide | OC(CNC(C)(C)C)C1=CC=C2C(=[N+]1[O-])COC(O2)C2=CC=CC=C2 | C19H24N2O4
